US05420275
N-Formyl-p-methoxyphenylglycine methyl ester
In 250 ml of formic acid was dissolved 36.9 g of N-Boc-p-methoxyphenylglycine methyl ester, and the mixture was stirred at room temperature for 3 hours and subsequently at 40°-50° C. for 1 hour. After dropwise addition of 24.8 ml (2.1 eq.) of acetic anhydride, the mixture was stirred at room temperature overnight and 40°-50° C. for 2 hours. After the solvent was distilled off, the residue was neutralized with an aqueous solution of sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off. The crystals were collected by filtration with hexane.

reactant | N-Boc-p-methoxyphenylglycine methyl ester | 36.9 g | COC(CN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC)=O | C15H21NO5
reactant | acetic anhydride | 24.8 ml, 2.1 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 250 ml | C(=O)O | CH2O2
product | N-Formyl-p-methoxyphenylglycine methyl ester | COC(CN(C=O)C1=CC=C(C=C1)OC)=O | C11H13NO4
